US05852016
N-(6,7-Dichloro-2,3-dimethoxyquinoxalin-5-yl)-benzenesulphonamide
A mixture of 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline (Preparation 1) (548 mg, 2.0 mmol), benzenesulphonyl chloride (1.28 ml, 10 mmol) and pyridine (0.8 ml, 10 mmol) in dry dichloromethane (30 ml) was stirred at reflux for 100 hours. The mixture was poured into ethyl acetate/water and a white solid was filtered off, washed with water, ethyl acetate, then ether, and dried at 80° C. in vacuo to give the title compound (250 mg, 30%), m.p. 292°-293° C.

reactant | 5-amino-6,7-dichloro-2,3-dimethoxyquinoxaline | 2.0 mmol, 548 mg | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)OC)OC | C10H9Cl2N3O2
reactant | benzenesulphonyl chloride | 10 mmol, 1.28 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | pyridine | 10 mmol, 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(6,7-Dichloro-2,3-dimethoxyquinoxalin-5-yl)-benzenesulphonamide | 250 mg, 30% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)NS(=O)(=O)C1=CC=CC=C1 | C16H13Cl2N3O4S
